US05451700
A solution of 2,4-dimethoxy-N,N-bis(1-methylethyl)benzamide (3.0 g, 11.0 mmol) in 10 ml of dichloromethane at 0° C. is treated with 1N boron tribromide (33.0 mL, 33.0 mmol) and stirred at room temperature for 2 hours. The reaction is concentrated in vacuo, dissolved in 1N sodium hydroxide solution, and acidified with 1N hydrochloric acid to generate solid which is filtered to afford 2,4-dihydroxy-N,N-bis(1-methylethyl)benzamide as white solid.

reactant | 2,4-dimethoxy-N,N-bis(1-methylethyl)benzamide | 11.0 mmol, 3.0 g | COC1=C(C(=O)N(C(C)C)C(C)C)C=CC(=C1)OC | C15H23NO3
reactant | boron tribromide | 33.0 mmol, 1N, 33.0 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,4-dihydroxy-N,N-bis(1-methylethyl)benzamide | OC1=C(C(=O)N(C(C)C)C(C)C)C=CC(=C1)O | C13H19NO3
